US07105531B2
4-(2,4-Dichloroanilino)-7,8-dihydroxybenzo[g]quinoline-3-carbonitrile
A mixture of 252.6 mg (0.6 mmol) of 4-(2,4-dichloroanilino)-7,8-dimethoxybenzo[g]quinoline-3-carbonitrile and 5.0 g of pyridine hydrochloride is heated at 215–220° C. for 40 minutes under nitrogen. After cooling, the mixture is neutralized with 3% ammonium hydroxide aqueous solution and stirred for 30 minutes. The precipitate is collected, washed with water and dried in vacuo. The crude product is passed through a short column of silica gel, eluting with a gradient of methylene chloride/methanol 90:10 to 50:50, to provide 122.8 mg (51.7%) of the product as a brown solid, mp>260° C.

reactant | 4-(2,4-dichloroanilino)-7,8-dimethoxybenzo[g]quinoline-3-carbonitrile | 0.6 mmol, 252.6 mg | ClC1=C(NC2=C(C=NC3=CC4=C(C=C23)C=C(C(=C4)OC)OC)C#N)C=CC(=C1)Cl | C22H15Cl2N3O2
reactant | pyridine hydrochloride | 5.0 g | Cl.N1=CC=CC=C1
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-(2,4-Dichloroanilino)-7,8-dihydroxybenzo[g]quinoline-3-carbonitrile | 122.8 mg, 51.7% | ClC1=C(NC2=C(C=NC3=CC4=C(C=C23)C=C(C(=C4)O)O)C#N)C=CC(=C1)Cl | C20H11Cl2N3O2
